US05374732
In a flask, 2,3-dichloro-5-(trifluoromethyl)pyridine (10.8 g, 50 mmol), sodium hydrogen sulfite (20.8 g, 200 mmol), ethanol (100 ml) and water (100 ml) were charged and heated under reflux for 41 hours. After evaporating off the solvent from the reaction mixture, conc. hydrochloric acid was added to the residue and then evaporated to dryness. This residue was extracted with methanol, and the metanol phase was filtered and evaporated to dryness to obtain quantitatively sodium 5-trifluoromethyl-3-chloropyridine-2-sulfonate (14.6 g). Decomposition point, 322°-334° C.

reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 50 mmol, 10.8 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | sodium hydrogen sulfite | 200 mmol, 20.8 g | S(=O)(O)[O-].[Na+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | sodium 5-trifluoromethyl-3-chloropyridine-2-sulfonate | 14.6 g | FC(C=1C=C(C(=NC1)S(=O)(=O)[O-])Cl)(F)F.[Na+] | InChI=1S/C6H3ClF3NO3S.Na/c7-4-1-3(6(8,9)10)2-11-5(4)15(12,13)14;/h1-2H,(H,12,13,14);/q;+1/p-1
